US08193359B2
NaH (60% dispersion in mineral oil, 51 mg, 1.26 mmol) was added to a solution of 1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid ethyl ester (200 mg, 1.05 mmol) in anhydrous DMF (10 mL) at 0° C. The mixture was stirred for 1 h, before being treated with MeI (79 μL, 1.26 mmol) and allowed to warm to 20° C. After 16 h, saturated aqueous NH4Cl (10 mL) was added, then the suspension was stirred vigorously for 1 h. The mixture was partitioned between H2O (10 mL) and EtOAc (30 mL), then the aqueous layer was extracted with EtOAc (3×20 mL). The combined organic extracts were washed with brine (20 mL), dried (MgSO4), filtered, and concentrated, then the residue was purified by flash chromatography (IH-EtOAc, 1:1) to provide 1-methyl-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid ethyl ester: δH (CDCl3): 1.45 (t, 3H), 4.20 (s, 3H), 4.42 (q, 2H), 7.25 (s, 1H), 7.58 (d, 1H), 8.36 (d, 1H), 8.95 (s, 1H). A solution of this ester (36 mg, 180 μmol) in EtOH (3 mL) was treated with 2 M NaOH (270 μL, 540 μmol), then the mixture was stirred at 60° C. for 4 h. On cooling to ambient temperature, the mixture was treated dropwise with dilute AcOH to adjust the pH to 4. The resulting suspension was allowed to stand at ambient temperature for 7 d, then the precipitated solid was collected, washed with H2O, and dried to furnish the title compound: δH(CD3OD): 4.23 (s, 3H), 7.20 (s, 1H), 8.01 (d, 1H), 8.17 (d, 1H), 9.12 (s, 1H).

reactant | NaH | 1.26 mmol, 51 mg | [H-].[Na+]
reactant | 1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid ethyl ester | 1.05 mmol, 200 mg | C(C)OC(=O)C1=CC=2C(=CN=CC2)N1 | C10H10N2O2
reactant | MeI | 1.26 mmol, 79 μL | CI | CH3I
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-methyl-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC=2C(=CN=CC2)N1C | C11H12N2O2
